US05583135
A mixture of 3,4-dihydro-2H-1,4-benzoxazine (6 g) and tri(ethoxycarbonyl)methane (9.4 ml) was stirred at 150° C. for 1 hour and at 200° C. for 1 hour. The mixture was cooled and the solid was washed with ether to give pale brown crystals of 2,3-dihydro-6-ethoxycarbonyl-7-hydroxy-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (9.6 g).

reactant | 3,4-dihydro-2H-1,4-benzoxazine | 6 g | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | tri(ethoxycarbonyl)methane | 9.4 ml | C(C)OC(=O)C(C(=O)OCC)C(=O)OCC | C10H16O6
product | 2,3-dihydro-6-ethoxycarbonyl-7-hydroxy-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 9.6 g | C(C)OC(=O)C1=C(C=2C=CC=C3C2N(CCO3)C1=O)O | C14H13NO5
